US04861769
A mixture of benzhydryl 7β-[2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate 1-oxide (syn isomer) (2.5 g) and sodium iodide (3.4 g) in N,N-dimethylformamide (20 ml) was stirred at ambient temperature for 30 minutes. To the mixture was added isonicotinamide (0.91 g) under ice-cooling and the mixture was stirred for 2 hours at the same temperature. The mixture was poured into diisopropyl ether to give an oil. The oil was separated by decantation and triturated with water. The solid was dissolved in tetrahydrofuran, dried over magnesium sulfate, concentrated under reduced pressue, and triturated in diisopropyl ether to give benzhydryl 7β-[2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(4-carbamoyl-1-pyridinio)methyl-3-cephem-4-carboxylate 1-oxide iodide (syn isomer) as a solid.

reactant | benzhydryl 7β-[2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate 1-oxide | 2.5 g | C1(CC1)ON=C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2=O)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O | C30H26ClN5O7S2
reactant | sodium iodide | 3.4 g | [I-].[Na+]
reactant | isonicotinamide | 0.91 g | C(C1=CC=NC=C1)(=O)N | C6H6N2O
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | benzhydryl 7β-[2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(4-carbamoyl-1-pyridinio)methyl-3-cephem-4-carboxylate 1-oxide iodide | [I-].C1(CC1)ON=C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2=O)C[N+]2=CC=C(C=C2)C(N)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O | InChI=1S/C36H31N7O8S2.HI/c37-31(45)23-13-15-42(16-14-23)17-24-19-53(49)34-28(40-32(46)27(41-51-25-11-12-25)26-18-52-36(39-26)38-20-44)33(47)43(34)29(24)35(48)50-30(21-7-3-1-4-8-21)22-9-5-2-6-10-22;/h1-10,13-16,18,20,25,28,30,34H,11-12,17,19H2,(H3-,37,38,39,40,44,45,46);1H/t28-,34-,53?;/m1./s1
